US04760057
1-Ethyl-6-fluoro-1,4-dihydro-4-oxo-7-[4-(1-chloroethoxy carbonyl)-1-piperazinyl]-3-quinoline carboxylic acid
Norfloxacin (6.4 g) was suspended in 300 ml of chloroform and 4.3 g of proton sponge® was added to it. The suspension was cooled in an ice bath and 4.0 g of 1-chloroethyl chloroformate was added. A clear solution resulted in half an hour. The reaction mixture was stirred at room temperature for 14 hours. The reaction mixture was concentrated in vacuum to about 150 ml. The crystals formed were filtered and washed with chloroform. The pure product weighed 5.3 g.

reactant | Norfloxacin | 6.4 g | CCN1C=C(C(=O)C2=C1C=C(C(=C2)F)N3CCNCC3)C(=O)O | C16H18FN3O3
reactant | proton sponge | 4.3 g | CN(C)C1=CC=CC2=C1C(=CC=C2)N(C)C | C14H18N2
reactant | 1-chloroethyl chloroformate | 4.0 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-Ethyl-6-fluoro-1,4-dihydro-4-oxo-7-[4-(1-chloroethoxy carbonyl)-1-piperazinyl]-3-quinoline carboxylic acid | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)C(=O)OC(C)Cl)F)=O)C(=O)O | C19H21ClFN3O5
